US08211923B2
2,2,2-trifluoro-1-(1-methyl-6-nitro-1H-indol-3-yl)-ethanone
2 g 1-methyl-6-nitro-1H-indole are dissolved in 10 ml of tetrahydrofuran and cooled to 0° C. 2.4 ml Trifluoroacetic anhydride are added dropwise to this and the mixture is stirred for 1 hour at 0° C. and for 12 hours at ambient temperature. The solid precipitated is suction filtered and dried.

reactant | 1-methyl-6-nitro-1H-indole | 2 g | CN1C=CC2=CC=C(C=C12)[N+](=O)[O-] | C9H8N2O2
reactant | Trifluoroacetic anhydride | 2.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(1-methyl-6-nitro-1H-indol-3-yl)-ethanone | FC(C(=O)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)(F)F | C11H7F3N2O3
